US08754079B2
XII.1. racemic (trans-2-Hydroxy-cyclohexyl)-carbamic acid tert-butyl ester
A solution of 3.64 g di-tert-butyldicarbonate in 5 ml methylene chloride was added to a solution of 3.02 g racemic trans-2-aminocyclohexanol and 4.2 ml triethylamine in 40 ml methylene chloride. After completion of the reaction methylene chloride was added and the mixture was washed with 10% au potassium hydrogensulfate solution. The organic phase was passed through a hydrophobic frit and concentrated.

reactant | di-tert-butyldicarbonate | 3.64 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | racemic trans-2-aminocyclohexanol | 3.02 g | N[C@H]1[C@@H](CCCC1)O | C6H13NO
reactant | triethylamine | 4.2 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | racemic (trans-2-Hydroxy-cyclohexyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1[C@@H](CCCC1)O)=O | C11H21NO3
